US08470820B2
Step 4: 3-Bromo-6-methoxymethyl-pyridine-2-carbonitrile
A solution of 5-bromo-2-methoxymethyl-pyridine-1-oxide (5.0 g, 22.7 mmol), triethylamine (12.7 ml, 91 mmol) and trimethylsilyl cyanide (9.1 ml, 68.2 mmol) in acetonitrile (10 ml) was heated to 120° C. for 18 hours in a sealed tube. After completion of the reaction, water was added to the reaction mixture and acetonitrile was removed. The crude material was extracted with ethyl acetate, the combined organic layers were washed with water and brine, dried, filtered, and evaporated. The crude product was purified by silica gel chromatography using an ethyl acetate/hexane eluent to yield 3.0 g (58%) of the title compound.

reactant | 5-bromo-2-methoxymethyl-pyridine-1-oxide | 22.7 mmol, 5.0 g | BrC=1C=CC(=[N+](C1)[O-])COC | C7H8BrNO2
reactant | triethylamine | 91 mmol, 12.7 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl cyanide | 68.2 mmol, 9.1 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | water | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-Bromo-6-methoxymethyl-pyridine-2-carbonitrile | 3.0 g, 58% | BrC=1C(=NC(=CC1)COC)C#N | C8H7BrN2O
